spice
* NMOS and PMOS Transistor Models
.model NMOS NMOS
.model PMOS PMOS

* Circuit Netlist
M1 3 3 5 5 PMOS
M2 5 7 4 4 NMOS
I1 6 4 DC 1mA
RS 5 3 10k

* Independent Voltage Source
VDD 6 0 DC 5V