spice
* SPICE Netlist for the given schematic
VDD 2 0 DC 5V
I1 2 1 DC 300uA
M1 6 8 4 4 NMOS
M2 9 6 4 4 NMOS
M3 5 8 6 6 NMOS
M4 9 6 6 6 NMOS
M5 8 5 2 2 NMOS
M6 9 5 2 2 NMOS
M7 2 8 2 2 PMOS
M8 2 9 2 2 PMOS
M9 4 8 4 4 NMOS
M10 4 4 1 1 PMOS
M11 2 2 1 1 PMOS
R1 1 0 1k
I2 4 0 DC 2.97mA
.ends