spice
* Nodes have been identified based on the second image annotation

VDD 2 0 DC 5
VIN 5 0 AC 1 SIN(0 1 1k)

RS 5 2 1k
CE 2 0 10uF
CC 3 2 10nF
RL 2 3 1k
CL 3 0 10uF

M9 2 1 3 3 NMOS L=1u W=2u

.model NMOS NMOS (LEVEL=1 VT0=1 KP=120u)