spice
* SPICE Netlist

* Current Source
Iin 2 4 DC 0 AC 1

* Resistors
RS 2 4 10k
RL 3 5 1k

* Capacitors
CC 2 3 1u
CL 5 4 1u

* MOSFET
M1 3 2 7 7 NMOS L=1u W=1u

* Voltage Source
V1 6 4 DC 5

* Controlled Source
Gm 1 3 2 0 0.001

* Voltage Amplifier with Gain of 1
Eamp 3 0 1 0 1

.option post
.end