* NMOS Transistors
M1 8 10 4 4 NMOS
M2 9 8 2 2 NMOS
M3 4 8 6 6 NMOS
M4 6 9 8 8 NMOS
M6 10 2 3 3 NMOS
M8 2 2 10 10 NMOS
M9 3 4 4 4 NMOS

* PMOS Transistors
M5 2 2 8 8 PMOS
M7 2 2 2 2 PMOS
Mb1 4 4 4 4 PMOS
Mb2 2 2 2 2 PMOS

* Current Sources
IREF1 4 0 DC
IREF2 2 0 DC

* Voltage Source
VDD 2 0 DC