*MOSFETs
M3 X 4 4 4 NMOS
M4 X 8 4 8 NMOS
M5 2 Y 2 2 PMOS
M6 Y 2 2 2 PMOS
M21 4 2 4 4 NMOS
M22 Y 22 2 2 PMOS
M23 5 5 5 5 NMOS
M24 3 6 5 5 NMOS

*Current Sources
I1 4 4 DC
I2 2 22 DC
I3 5 5 DC
I4 6 3 DC

*Resistors
R1 1 5
R2 22 2
R3 3 8
R4 8 3

*Voltage
V1 5 0 DC
V2 3 0 DC