spice
* SPICE Netlist
M1 3 3 5 NMOS
M2 4 3 5 NMOS
M3 2 4 6 PMOS
M4 2 4 6 PMOS
IREF 6 3 DC 1
RS 5 4 1k
VDD 6 0 DC 5

.model NMOS NMOS
.model PMOS PMOS
.end