plaintext
* Nodes:
* 1 - VDD
* 2 - Node for PMOS/M3 drain/gate
* 3 - Node for NMOS/M1 source and NMOS/M2 source
* 4 - Vo
* 5 - Bottom node of tail current source ITAIL
* 6 - VSS

* Transistors
M1 2 7 5 NMOS
M2 4 3 5 NMOS
M3 1 2 2 PMOS
M4 1 4 2 PMOS

* Current Source
ITAIL 5 6 DC 

* Voltage Sources
VDD 1 0 DC
VSS 6 0 DC

.end