* SPICE Netlist for Given Schematic

* Voltage source
Vs 3 0 DC

* Resistors
RS 3 4 1k
RL 2 6 1k

* Capacitors
Cgs 4 3 10p
Cf 4 2 5p

* Voltage-controlled current source
Gm 0 2 5 6 1m

* Node Definitions
V1 4 0
Vo 2 0