* SPICE Netlist
* Components

CH X 2 CH_VALUE
CX 2 0 CX_VALUE

* Op-amp
* Vout = Av1 * (Voltage at + - Voltage at -)
.subckt OPAMP 2 0 Vout
* Assume a behavioral model using a voltage-controlled voltage source
E1 Vout 0 2 0 Av1
.ends OPAMP

* Connections
XOPAMP 2 0 Vout OPAMP Av1=GIVEN_GAIN

* Sources and simulation instructions would be added here in a full simulation setting

.end