plaintext
* NMOS Amplifier Circuit
M1 2 Vin 3 3 NMOS_L W=1u L=1u
RD 4 2 1k
RS 3 0 500
VDD 4 0 DC 5V
Vin Vin 0 DC 0
* Model Definition (for illustration only, parameters need to be defined)
.model NMOS_L NMOS (Level=1)