*MOSFET
M1 4 3 4 4 NMOS

*Inductor
L1 Vb 3 L1_value

*Capacitors
C1 3 0 C1_value
C2 4 0 C2_value

*Voltage Source
VDD 5 0 DC VDD_value

*Current Source
I1 4 0 DC I1_value