spice
* NMOS (Drain Gate Source)
* PMOS (Drain Gate Source)

VDD 6 0 DC 5V
VIN 1 0 DC

M1 2 1 3 3 NMOS
M2 2 2 6 6 PMOS
M3 2 2 3 3 NMOS
M4 6 2 3 3 NMOS
M5 0 0 3 3 NMOS
M6 3 2 3 3 NMOS
M7 3 2 3 3 NMOS
M8 0 2 3 3 NMOS
M10 2 2 3 3 NMOS
M11 0 2 3 3 NMOS

R1 2 6 1k
R2 6 2 1k

I1 2 3 DC 1mA
ISS 3 0 DC 100uA

.END